US07687491B2
(27g) 1-({5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylic acid 1/2 oxalate
The title compound (0.10 g) was synthesized in a yield of 78% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 21 (21d) using methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylate (0.12 g, 0.28 mmol) that was obtained in Example 27 (27f), a 1N aqueous solution of sodium hydroxide (0.84 ml, 0.84 mmol), acetic acid (48 μl, 0.84 mmol), and oxalic acid (13 mg, 0.14 mmol).

reactant | methyl 1-({5-[5-(4-isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylate | 0.28 mmol, 0.12 g | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1C)CN1CC(C1)C(=O)OC)C | C25H30N4O3
reactant | sodium hydroxide | 0.84 mmol, 0.84 ml | [OH-].[Na+]
reactant | acetic acid | 0.84 mmol, 48 μl | C(C)(=O)O | C2H4O2
reactant | oxalic acid | 0.14 mmol, 13 mg | C(C(=O)O)(=O)O | C2H2O4
product | 1-({5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methylpyridin-2-yl}methyl)azetidine-3-carboxylic acid | 0.10 g, yield of 78% | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1C)CN1CC(C1)C(=O)O)C | C24H28N4O3
